US09447084B2
N-(3-chloropropyl)-2,2,2-trifluoroacetamide
Into a 500-mL round-bottom flask, was placed 3-chloropropan-1-amine hydrochloride (10 g, 76.91 mmol, 1.00 equiv), dichloromethane (300 mL), TEA (15.6 g, 154.17 mmol, 2.00 equiv). This was followed by the addition of pyridine (2 mL) dropwise with stirring at 0° C. To this was added trifluoroacetyl 2,2,2-trifluoroacetate (16.2 g, 77.13 mmol, 1.00 equiv). The resulting solution was stirred for 8 h at room temperature. The resulting mixture was washed with 2×200 mL of 0.1N hydrogen chloride and 2×200 mL of sodium bicarbonate aq. The resulting mixture was washed with 2×200 mL of brine. The mixture was dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 6 g (41%) of N-(3-chloropropyl)-2,2,2-trifluoroacetamide as a white solid. H-NMR (CDCl3, ppm): 6.564 (s, 1H), 3.634-3.535 (m, 4H), 2.135-2.050 (m, 2H)

reactant | 3-chloropropan-1-amine hydrochloride | 76.91 mmol, 10 g, 1.00 equiv | Cl.ClCCCN
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | trifluoroacetyl 2,2,2-trifluoroacetate | 77.13 mmol, 16.2 g, 1.00 equiv | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-chloropropyl)-2,2,2-trifluoroacetamide | ClCCCNC(C(F)(F)F)=O | C5H7ClF3NO
